US05705504
3-Hydroxy-3-phenyl-3-trifluoromethylpropionic acid
To a cooled (0° C.) solution of n-butyl lithium (1.6M in hexanes, 40 mL) in dry THF (90 mL), was added dropwise diisopropylamine (9.45 mL) and the mixture was stirred for 5 min. Keeping the temperature at 0° C., AcOH (1.92 mL, 0.0336 mol) was added dropwise and the reaction mixture was stirred for 10 min and then heated at 50° C. for 30 min. The resulting solution was allowed to cool, a solution of 2,2,2-trifluoroacetophenone (4.76 mL (0.0336 mol) in dry THF (15 mL) was added at 0° C. and the resulting mixture was stirred at room temperature overnight. Finally, Et20 (150 mL) and H2O (50 mL) were added, the aqueous phase was separated, acidified with HCl and extracted with EtOAc (3×). The organic phase was dried and concentrated to afford the title compound as an orange solid (3.88 g, 49%).

reactant | n-butyl lithium | 1.6M, 40 mL | C(CCC)[Li]
reactant | diisopropylamine | 9.45 mL | C(C)(C)NC(C)C | C6H15N
reactant | AcOH | 0.0336 mol, 1.92 mL | CC(=O)O | C2H4O2
reactant | 2,2,2-trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | 3-Hydroxy-3-phenyl-3-trifluoromethylpropionic acid | 3.88 g, 49% | OC(CC(=O)O)(C(F)(F)F)C1=CC=CC=C1 | C10H9F3O3
